US07973045B2
Procedure for the Preparation of Dasatinib Form B
Dasatinib butanolate (form BU-2, 1.00 g, 2.05 mmol) was heated in a mixture of ethanol (22 ml) and water (3 ml) at 75-80° C. to achieve complete dissolution. Water was added (8 ml) at the same temperature. The solution was cooled to 70° C. and maintained at 70° C. for 1 h. Temperature was lowered from 70° C. to 5° C. during 2 h, and maintained between 0-5° C. for 2 h. The product was filtered and washed with EtOH/H2O (1:1, 2×10 ml) and dried under reduced pressure at 40° C./8 h. Yield: 0.61 g.

reactant | Dasatinib butanolate | 2.05 mmol, 1.00 g | CC1=CC=CC(=C1NC(=O)C2=CN=C(S2)NC=3C=C(N=C(N3)C)N4CCN(CC4)CCO)Cl.C(CCC)[O-]
solvent | ethanol | 22 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | Dasatinib | CC1=CC=CC(=C1NC(=O)C2=CN=C(S2)NC=3C=C(N=C(N3)C)N4CCN(CC4)CCO)Cl | C22H26ClN7O2S
